US06239131B1
Preparation of 1-(tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea
Ethyl 3-aminobenzoate (340 mg) was dissolved in anhydrous tetrahydrofuran (50 ml), triphosgene (228 mg) was added, triethylamine (0.9 ml) was added thereto five times after divided into five portions over 15 minutes at 0° C., and the mixture was stirred at room temperature for 5 minutes. To this solution was added a solution of 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine that obtained from Step 2 in tetrahydrofuran (10 ml), the resultant mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, water was added, and the mixture was extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 870 mg of the titled compound (Yield: 79%).

reactant | Ethyl 3-aminobenzoate | 340 mg | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | triphosgene | 228 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)N)=O | C20H29N3O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea | 870 mg, Yield: 79% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O | C30H38N4O6
